US06576643B2
b) (±)-10,11-Dihydro-3-[2-[2-(ethylamino)thiazol-4-yl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid
1.0 N LiOH (0.32 mL, 0.32 mmole) was added dropwise to a solution of ethyl (±)-10,11-dihydro-3-[2-[2-(ethylamino)thiazol-4-yl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetate (145.0 mg, 0.32 mmole) in THF (2.4 mL) and H2O (0.48 mL) at 0° C. The resulting pinkish-orange two-phase mixture was stirred at 0° C. for 10 min, during which time the color faded to orangish-yellow, then was warmed to RT. After 1.5 hr, a little more H2O (5 drops) was added, and the reaction was stirred for 42 hr, then was cooled to 0° C. and neutralized with TFA (0.025 mL). The THF was removed on the rotavap, and the resulting oily residue was diluted with 0.1% TFA/CH3CN to give a homogeneous solution. ODS chromatography (gradient: 40% CH3CN/H2O containing 0.1% TFA, then 45% CH3CN/H2O containing 0.1% TFA) gave fractions containing the title compound. These were pooled, and the CH3CN was removed on the rotavap. The resulting aqueous mixture was made basic at 0° C. to afford a homogeneous solution. Careful acidification to pH 4-5 with 1.0 N HCl gave a solid precipitate, which was collected, washed with plenty of H2O, and dried to afford the title compound (80.9 mg, 51%) as an off-white solid: HPLC (Hamilton PRP-1®, 45% CH3CN/H2O containing 0.1% TFA) k′=0.89; 1H NMR (400 MHz, CD3OD) δ7.02-7.18 (m, 4 H), 7.00 (d, J=8.3 Hz, 1 H), 6.79 (d, J=2.6 Hz, 1 H), 6.68 (dd, J=8.3, 2.6 Hz, 1 H), 6.45 (s, 1 H), 4.26 (d, J=14.9 Hz, 1 H), 4.20 (t, J=6.4 Hz, 2 H), 3.87 (d, J=14.9 Hz, 1 H), 3.68-3.80 (m, 1 H), 3.34 (q, J=7.3 Hz, 2 H, partially obscured by residual solvent signal), 3.30 (dd, 1 H, obscured by residual solvent signal), 2.99 (t, J=6.4 Hz, 2 H), 2.92 (dd, J=15.0, 9.4 Hz, 1 H), 2.62 (dd, J=15.9, 5.0 Hz, 1 H), 2.47 (dd, J=15.9, 9.3 Hz, 1 H), 1.27 (t, J=7.3 Hz, 3 H); MS (ES) m/e 423 (M+H)+. Anal. Calcd for C24H26N2O3S.0.67 CF3CO2H: C, 61.03; H, 5.39; N, 5.62. Found: C, 61.21; H, 5.36; N, 5.60.

reactant | LiOH | 0.32 mmole, 1.0 N, 0.32 mL | [Li+].[OH-]
reactant | ethyl (±)-10,11-dihydro-3-[2-[2-(ethylamino)thiazol-4-yl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetate | 0.32 mmole, 145.0 mg | C(C)NC=1SC=C(N1)CCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)OCC)C=CC=C3)C1 | C26H30N2O3S
reactant | TFA | 0.025 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | CH3CN H2O | CC#N.O
solvent | THF | 2.4 mL | C1CCOC1 | C4H8O
solvent | H2O | 0.48 mL | O | H2O
catalyst | H2O | 5 drops | O | H2O
product | (±)-10,11-Dihydro-3-[2-[2-(ethylamino)thiazol-4-yl]-1-ethoxy]-5H-dibenzo[a,d]cycloheptene-10-acetic Acid | C(C)NC=1SC=C(N1)CCOC=1C=CC2=C(CC3=C(C(C2)CC(=O)O)C=CC=C3)C1 | C24H26N2O3S
